US04405552
EXAMPLE 46: 6-CHLORO-5-(4-CHLOROPHENYL)-2-PYRIDYLAMINE
2-Amino-6-chloro-5-(4-chlorophenyl)-3-pyridinecarboxylic acid (9 grams), 300 ml H2SO4, and 90 ml water were heated in an oil bath at 220°-230° C. for 1 hour. The reaction mixture was diluted to 2 liters, cooled, and neutralized with 50% NaOH. A gum-like solid formed which was only partially removed by filtration. The filtrate was then extracted four times with 800-1000 ml portions of CH2Cl2 taking care not to remove any of gum-like solid. The combined CH2Cl2 layers were dried over MgSO4. The filtered solid was dissolved in ethyl acetate and then the aqueous-solid mixture was extracted with the same solvent. TLC of this extract showed the desired product and an impurity. Next the CH2Cl2 extracts were filtered and stripped to give about 0.6 gram of the desired product, m.p. 178°-182° C. The ethyl acetate extract was similarly treated to give a solid residue. Trituration of this solid with hot CH2Cl2 followed by filtration and stripping gave about 0.8 gram of the desired product, m.p. 179°-183° C.

reactant | 2-Amino-6-chloro-5-(4-chlorophenyl)-3-pyridinecarboxylic acid | 9 grams | NC1=NC(=C(C=C1C(=O)O)C1=CC=C(C=C1)Cl)Cl | C12H8Cl2N2O2
reactant | H2SO4 | 300 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | water | 90 ml | O | H2O
product | 6-CHLORO-5-(4-CHLOROPHENYL)-2-PYRIDYLAMINE | about 0.6 gram | ClC1=C(C=CC(=N1)N)C1=CC=C(C=C1)Cl | C11H8Cl2N2
